US06869950B1
A mixture of 250 g of ethyl 4-(acetylamino)-3-((2,4-dichlorobenzyl)amino)benzoate, 68.4 g of concentrated hydrochloric acid, and 1197 g of ethanol was refluxed for 2 hours, to give 1-(2,4-dichlorobenzyl)-6-(ethoxycarbonyl)-2-methylbenzimidazole. To this reaction solution, a solution consisting of 105 g of sodium hydroxide and 1000 g of water was added, and the reaction solution was refluxed for 2 hours. The reaction solution was cooled, and was neutralized with the slow addition of 193.3 g of concentrated hydrochloric acid. The crystals precipitated were separated through filtration, were washed with 900 ml of a mixed solution of ethanol and water at a ratio of 2:1, and were dried to give 214 g of the title compound.

reactant | ethyl 4-(acetylamino)-3-((2,4-dichlorobenzyl)amino)benzoate | 250 g | C(C)(=O)NC1=C(C=C(C(=O)OCC)C=C1)NCC1=C(C=C(C=C1)Cl)Cl | C18H18Cl2N2O3
reactant | hydrochloric acid | 68.4 g | Cl | ClH
solvent | ethanol | 1197 g | C(C)O | C2H6O
product | 1-(2,4-dichlorobenzyl)-6-(ethoxycarbonyl)-2-methylbenzimidazole | ClC1=C(CN2C(=NC3=C2C=C(C=C3)C(=O)OCC)C)C=CC(=C1)Cl | C18H16Cl2N2O2
